US04438113
Trifluoroacetic acid (9.2 ml) was added to a suspension of 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-t-butoxycarbonylmethoxyiminoacetamido]-3-methyl-3-cephem-4-carboxylic acid (syn isomer) (2.3 g) in dichloromethane (5 ml) and anisole (2.3 ml) at ambient temperature and the mixture was stirred for 1.5 hours at same temperature. To the resulting solution was added the isopropyl ether and stirred. The precipitates were collected by filtration, washed with isopropyl ether. The precipitates were added to a mixture of ethyl acetate and water, and adjusted to pH 7.5 with saturated aqueous sodium bicarbonate. The separated aqueous layer was adjusted to pH 2.2 with 10% hydrochloric acid under ice cooling. The precipitates were filtered off, washed with ice water and dried over phosphorus pentoxide in vacuo to give 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-methyl-3-cephem-4-carboxylic acid (syn isomer) (1.4 g).

reactant | Trifluoroacetic acid | 9.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-t-butoxycarbonylmethoxyiminoacetamido]-3-methyl-3-cephem-4-carboxylic acid | 2.3 g | NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O)=NOCC(=O)OC(C)(C)C)Cl | C19H22ClN5O7S2
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | anisole | 2.3 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-methyl-3-cephem-4-carboxylic acid | 1.4 g | NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O)=NOCC(=O)O)Cl | C15H14ClN5O7S2
